US06166006
In 1,2-dichloroethane (35 ml) were suspended 4-methylcyclohexanone (2.5 g), methylamine hydrochloride (1.6 g) and triethylamine (3.3 ml), and to the suspension was added sodium triacetoxy boron hydride (6.6 g) under ice-cooling. The mixture was stirred under nitrogen atmosphere at room temperature over night. The solvent was evaporated, and the residue was neutralized with sodium hydroxide. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated. To the residue was added 4N hydrochloric acid-ethyl acetate, and the solvent was evaporated to give N, 4-dimethyl-cyclohexylamine hydrochloride (2.6 g) as colorless crystals.

reactant | 4-methylcyclohexanone | 2.5 g | CC1CCC(CC1)=O | C7H12O
reactant | methylamine hydrochloride | 1.6 g | Cl.CN
reactant | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 35 ml | ClCCCl | C2H4Cl2
product | N, 4-dimethyl-cyclohexylamine hydrochloride | 2.6 g | Cl.CNC1CCC(CC1)C | InChI=1S/C8H17N.ClH/c1-7-3-5-8(9-2)6-4-7;/h7-9H,3-6H2,1-2H3;1H
